US06211220B1
A stirred mixture of 3-nitrophenylboronic acid (2.00 g), 4-bromopyridine hydrochloride (1.56 g), bis(diphenylphosphino)butanepalladium(II) chloride (0.48 g), sodium bicarbonate (2.69 g), water (30 ml) and 1,2 dimethoxyethane (100 ml) is heated under reflux for 3 hours. The cool mixture is added to water (300 nil) and extracted with chloroform (3×150 ml), and the combined organic extracts washed with water and brine, dried (MgSO4), charcoaled and filtered. The solvent is evaporated to give a residue which is purified by flash chromatography (silica, ether) to give 1.19 g of 4-(3nitrophenyl)pyridine, mp 109-110.5° C. (from acetone/hexane).

reactant | 3-nitrophenylboronic acid | 2.00 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | 4-bromopyridine hydrochloride | 1.56 g | Cl.BrC1=CC=NC=C1
reactant | sodium bicarbonate | 2.69 g | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | 1,2 dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | water | 30 ml | O | H2O
product | 4-(3nitrophenyl)pyridine | 1.19 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=NC=C1 | C11H8N2O2
